US07691882B2
N-(3-(4-Bromo-pyrazol-1-yl)-pyridin-2-yl)-2,2-dimethyl-propionamide
To a mixture of N-(3-iodo-pyridin-2-yl)-2,2-dimethyl-propionamide (380 mg, 1.2 mmol) described in Manufacturing Example 39-1-2 and toluene (10 mL) were added 4-bromopyrazole (160 mg, 1.1 mmol), copper (I) iodide (11 mg, 0.056 mmol), trans-1,2-cyclohexanediamine (26 mg, 0.22 mmol) and potassium carbonate (340 mg, 2.5 mmol) at room temperature, which was stirred overnight at 110° C. The reaction mixture was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1) to obtain the title compound (190 mg, 52%).

reactant | N-(3-iodo-pyridin-2-yl)-2,2-dimethyl-propionamide | 1.2 mmol, 380 mg | IC=1C(=NC=CC1)NC(C(C)(C)C)=O | C10H13IN2O
reactant | 4-bromopyrazole | 1.1 mmol, 160 mg | BrC=1C=NNC1 | C3H3BrN2
reactant | trans-1,2-cyclohexanediamine | 0.22 mmol, 26 mg | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | potassium carbonate | 2.5 mmol, 340 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper (I) iodide | 0.056 mmol, 11 mg | [Cu]I
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-(4-Bromo-pyrazol-1-yl)-pyridin-2-yl)-2,2-dimethyl-propionamide | 190 mg, 52% | BrC=1C=NN(C1)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C13H15BrN4O
